US04788195
3-[2-(4-Morpholinyl)ethoxy]-benzenamine
To 36.01 g. of m-aminophenol dissolved in 325 ml. of N,N-dimethylformamide, 16.3 g. of 50% sodium hydride in oil was added. The reaction was stirred for 1 hour, until the effervescence stopped; then 57 g. of N-(2-chloroethyl)morpholine, from above, was added. After stirring overnight, the mixture was heated on a steam bath for 1/2 hr., then concentrated under vacuum. The residue was taken up in 300 ml. of 2N hydrochloric acid and washed twice with ether. After basifying with 10N sodium hydroxide, the product was extracted into ether, dried (magnesium sulfate), filtered through hydrous magnesium silicate and evaporated to a brown oil. Distillation gave 34.0 g. of a golden oil, b.p. 165°-180° C./0.45 mm.

reactant | m-aminophenol | NC=1C=C(C=CC1)O | C6H7NO
reactant | sodium hydride | [H-].[Na+]
reactant | N-(2-chloroethyl)morpholine | ClCCN1CCOCC1 | C6H12ClNO
solvent | N,N-dimethylformamide | CN(C=O)C | C3H7NO
product | 3-[2-(4-Morpholinyl)ethoxy]-benzenamine | N1(CCOCC1)CCOC=1C=C(C=CC1)N | C12H18N2O2
